US04605764
Preparation of N-isopentyl-N-(2-ethoxyethoxymethyl)dichloroacetamide
The solution of N-isopentyl-N-chloromethyldichloroacetamide (24.7 g., 0.1 mole) and 2-ethoxyethanol (9.9 g., 10.7 ml., 0.11 mole) in dry benzene (70 ml) is weighed in a four-necked, round-bottom flask of 250 ml, equipped with a calcium chloride tube, reflux condenser, mechanical stirrer, dropping funnel and thermometer. Triethylamine (10.1 g., 13.9 ml., 0.1 mole) is added to this solution under stirring and cooling by water in such a rate that the temperature is maintained below 40° C. After the addition is complete, the mixture is stirred for an additional 2 hours at room temperature. The mixture is washed with water (2×100 ml.) to remove triethylamine hydrochloride and the possible hydrophilic side-product, the benzene solution is dried over anhydrous sodium sulfate after distillation of the solvent and the residue is evaporated to dry under reduced pressure to give 27.9 g. (93%) of the named product as a pale yellow oil which is of 96% purity according to analysis by gas chromatography and is directly useful for practical purposes without any purification; nD25 =1.4649.

reactant | N-isopentyl-N-chloromethyldichloroacetamide | 0.1 mole, 24.7 g | C(CC(C)C)N(C(C(Cl)Cl)=O)CCl | C8H14Cl3NO
reactant | 2-ethoxyethanol | 0.11 mole, 10.7 ml, 9.9 g | C(C)OCCO | C4H10O2
reactant | Triethylamine | 0.1 mole, 13.9 ml, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | N-isopentyl-N-(2-ethoxyethoxymethyl)dichloroacetamide | C(CC(C)C)N(C(C(Cl)Cl)=O)COCCOCC | C12H23Cl2NO3
